US08648066B2
To a solution of 4-[(2-amino-5-bromopyridin-3-yl)thio]-2-methylbutan-2-ol (83 mg, 0.28 mmol) in a mixture of methanol (750 μL), acetone (750 μL) and water (450 μL) was added potassium peroxymonosulfate (131 mg, 0.21 mmol) and the reaction mixture was stirred for 90 minutes at 0° C. The reaction mixture was partitioned between water (20 mL) and ethyl acetate (50 mL). The organic layer was separated and washed with water (20 mL) and brine (20 mL), dried over sodium sulfate, filtered and concentrated. Purification by flash chromatography (35% to 80% ethyl acetate in hexane) gave 4-[(2-amino-5-bromopyridin-3-yl)sulfinyl]-2-methylbutan-2-ol (52 mg, 60%); MS (EI) for C10H15BrN2O2S: 308 (MH+).

reactant | 4-[(2-amino-5-bromopyridin-3-yl)thio]-2-methylbutan-2-ol | 0.28 mmol, 83 mg | NC1=NC=C(C=C1SCCC(C)(O)C)Br | C10H15BrN2OS
reactant | acetone | 750 μL | CC(=O)C | C3H6O
reactant | water | 450 μL | O | H2O
reactant | potassium peroxymonosulfate | 0.21 mmol, 131 mg | S(=O)(=O)(O[O-])[O-].[K+].[K+]
solvent | methanol | 750 μL | CO | CH4O
product | 4-[(2-amino-5-bromopyridin-3-yl)sulfinyl]-2-methylbutan-2-ol | 52 mg, 60% | NC1=NC=C(C=C1S(=O)CCC(C)(O)C)Br | C10H15BrN2O2S
